US07569600B2
To a solution of 5-cyclohex-1-enyl-3-amino-thiophene-2-carboxylic acid methyl ester (111 mg, 0.47 mmol) and bromobenzene (54 μL, 0.51 mmol) in dry dioxane (3 mL) were added cesium carbonate (459 mg, 1.41 mmol) and Pd2 dba3 (43 mg, 0.047 mmol), and the mixtue was deoxygenated by bubbling nitrogen through solution for 10 min. Then BINAP (47 mg, 0.075 mmol) was added to the mixture, and it was refluxed under nitrogen overnight. The mixture was diluted with CH2Cl2 and filtered through celite washing with CH2Cl2. Filtrate was concentrated under reduced pressure and purified by column chromatography on silica gel eluting with 2-30% EtOAc in hexanes to give 111 mg (76%) of 5-cyclohex-1-enyl-3-phenylamino-thiophene-2-carboxylic acid methyl ester.

reactant | 5-cyclohex-1-enyl-3-amino-thiophene-2-carboxylic acid methyl ester | 0.47 mmol, 111 mg | COC(=O)C=1SC(=CC1N)C1=CCCCC1 | C12H15NO2S
reactant | bromobenzene | 0.51 mmol, 54 μL | BrC1=CC=CC=C1 | C6H5Br
reactant | cesium carbonate | 1.41 mmol, 459 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.075 mmol, 47 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd2 dba3 | 0.047 mmol, 43 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-cyclohex-1-enyl-3-phenylamino-thiophene-2-carboxylic acid methyl ester | 111 mg, 76% | COC(=O)C=1SC(=CC1NC1=CC=CC=C1)C1=CCCCC1 | C18H19NO2S
